US04174321
o-Nitroaniline (138 g.) was diazotized in the usual manner with concentrated hydrochloric acid (400 ml.), water (200 ml.) and sodium nitrite (72 g.). The clear diazonium solution was added slowly to a cold solution of phenol (94 g.) in 900 ml. of 10% sodium hydroxide. The mixture was stirred for one hour and filtered, yielding 136 g. (56%) of the diazo compound (m.p. 154°-158° C.). This product was dissolved in 650 ml. of 2N sodium hydroxide solution. Zinc dust (130 g.) and sodium hydroxide (100 ml. of a 25% solution) were added slowly to the well-stirred solution. The mixture was cooled to <30° C. and acidified with concentrated hydrochloric acid. After stirring for 2 hours, the precipitate was filtered. The precipitate was taken up in a 1 liter filter of hot ethanol, solution filtered, cooled and product, p-(2H-benzotriazol2-yl)phenol, filtered out (m.p. 216°-218° C.). A well stirred mixture of p-(2H-benzotriazol-2-yl)phenol (0.02 mole), 4,4'-bis(2-bromoethoxy)-2-hydroxybenzophenone (0.01 mole), potassium carbonate (0.02 mole) and 200 ml. of methyl ethylketone were refluxed for 16 hours. The reaction mixture was washed with water. After the solvent was removed on a steam bath, 4,4'-bis[2-[4-(2H-benzotriazol-2 yl)phenoxy]ethoxy]-2-hydroxybenzophenone was obtained.

reactant | o-Nitroaniline | 138 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | hydrochloric acid | 400 ml | Cl | ClH
reactant | sodium nitrite | 72 g | N(=O)[O-].[Na+]
reactant | phenol | 94 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | p-(2H-benzotriazol-2-yl)phenol | 0.02 mole | N=1N(N=C2C1C=CC=C2)C2=CC=C(C=C2)O | C12H9N3O
reactant | 4,4'-bis(2-bromoethoxy)-2-hydroxybenzophenone | 0.01 mole | BrCCOC1=CC(=C(C(=O)C2=CC=C(C=C2)OCCBr)C=C1)O | C17H16Br2O4
reactant | potassium carbonate | 0.02 mole | C([O-])([O-])=O.[K+].[K+]
catalyst | Zinc | 130 g | [Zn] | Zn
solvent | methyl ethylketone | CC(=O)CC | C4H8O
solvent | water | 200 ml | O | H2O
product | 4,4'-bis[2-[4-(2H-benzotriazol-2 yl)phenoxy]ethoxy]-2-hydroxybenzophenone | N=1N(N=C2C1C=CC=C2)C2=CC=C(OCCOC1=CC(=C(C(=O)C3=CC=C(C=C3)OCCOC3=CC=C(C=C3)N3N=C4C(=N3)C=CC=C4)C=C1)O)C=C2 | C41H32N6O6
